US06756378B2
To a stirred solution of tert-butyl 4-[N′-(2-chlorophenyl)ureido]-3-methylphenylacetate (1.57 g, 4.19 mmol) in CH2Cl2 (10 ml) was added TFA (6 ml) at room temperature. After 4 h stirring, the mixture was concentrated in vacuo. The residue was triturated by the addition of water to give 4-[N′-(2-chlorophenyl)ureido]-3-methylphenylacetic acid (1.33 g, 100%) as a yellow powder. mp 243-245° C. (dec.); 1H-NMR (CDCl3) δ2.24 (s, 3H), 3.47 (s, 2H), 6.99-7.08 (m, 3H), 7.28 (t, J=7.6 Hz, 1H), 7.44 (dt, J=8.0, 2.4 Hz, 1H), 7.66 (dd, J=8.3, 1.9 Hz, 1H), 8.13 (dd, J=6.1, 1.7 Hz, 1H), 8.61 (d, J=6.3 Hz, 2H); MS (ESI), m/z 319 (M++1), 321 (M++3); Anal. Calcd. for C16H15ClN2O3.0.7TFA: C, 59.33; H, 4.65; Cl, 10.85; N, 8.57. Found: C, 59.23; H, 4.64; Cl, 10.90; N, 8.40.

reactant | tert-butyl 4-[N′-(2-chlorophenyl)ureido]-3-methylphenylacetate | 4.19 mmol, 1.57 g | ClC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)OC(C)(C)C)C)=O | C20H23ClN2O3
reactant | TFA | 6 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[N′-(2-chlorophenyl)ureido]-3-methylphenylacetic acid | 1.33 g, 100% | ClC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)O)C)=O | C16H15ClN2O3
